US06184225B2
A mixture of 4-chloro-6,7-dimethoxyquinazoline hydrochloride, (152 mg, 0.6 mmol), (prepared as described for the starting material in Example 1 but without the aqueous work up), and 4-bromo-2,6-difluoroaniline (121 mg, 0.6 mmol) in isopropanol (7 ml) was heated at reflux for 2 hours. The mixture was allowed to cool, the solid product collected by filtration, washed with isopropanol and dried to give 4-(4-bromo-2,6-difluoroanilino)-6,7-dimethoxyquinazoline hydrochloride (81 mg, 35%).

reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | 0.6 mmol, 152 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | 4-bromo-2,6-difluoroaniline | 0.6 mmol, 121 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | 4-(4-bromo-2,6-difluoroanilino)-6,7-dimethoxyquinazoline hydrochloride | 81 mg, 35% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C(=C1)F)F | InChI=1S/C16H12BrF2N3O2.ClH/c1-23-13-5-9-12(6-14(13)24-2)20-7-21-16(9)22-15-10(18)3-8(17)4-11(15)19;/h3-7H,1-2H3,(H,20,21,22);1H
